US05731432
A mixture of 1.0 mmol of 3-bromo-4-methylbenzoic acid, 1.2 mmol of DCC, 1.0 mmol of 3-aminopropionitrile in 2 mL of DMF was stirred for 36 h at 0° C. Chromatography provided N-(3-cyanopropyl)-(3'-bromo-4'-methylphenyl)carboxamide.

reactant | 3-bromo-4-methylbenzoic acid | 1.0 mmol | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | DCC | 1.2 mmol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-aminopropionitrile | 1.0 mmol | NCCC#N | C3H6N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(3-cyanopropyl)-(3'-bromo-4'-methylphenyl)carboxamide | C(#N)CCCNC(=O)C1=CC(=C(C=C1)C)Br | C12H13BrN2O
